US08486953B2
N-(3-(Dimethylamino)propyl)-4-(4-fluoro-2-iso-propoxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-sulfonamide
4-Fluoro-2-iso-propoxyaniline (0.049 g, 0.28 mmol) and 4-chloro-N-(3-(dimethylamino)propyl)-5-methylthieno[2,3-d]pyrimidine-6-sulfonamide hydrochloride salt (0.1 g, 0.28 mmol) were heated at 70° C. in anhydrous 1,4-dioxane (1.5 mL) for 4 hours. The solution was cooled to ambient temperature and diluted with water (2.0 mL) and adjusted to pH 9 (4:1 water/ammonium hydroxide solution). The precipitate was collected, washed with water and diethyl ether to yield the title compound as beige solid (0.039 g, 28%).

reactant | 4-Fluoro-2-iso-propoxyaniline | 0.28 mmol, 0.049 g | FC1=CC(=C(N)C=C1)OC(C)C | C9H12FNO
reactant | 4-chloro-N-(3-(dimethylamino)propyl)-5-methylthieno[2,3-d]pyrimidine-6-sulfonamide hydrochloride salt | 0.28 mmol, 0.1 g | Cl.ClC=1C2=C(N=CN1)SC(=C2C)S(=O)(=O)NCCCN(C)C
reactant | water ammonium hydroxide | O.[OH-].[NH4+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.0 mL | O | H2O
product | N-(3-(Dimethylamino)propyl)-4-(4-fluoro-2-iso-propoxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-sulfonamide | 0.039 g, 28% | CN(CCCNS(=O)(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC(C)C)S1)C)C | C21H28FN5O3S2
